US08541404B2
To a solution of 6-bromo-3,4-dihydro-1H-quinolin-2-one (750 mg, 3.32 mmol) in 20 ml dry DMF was added potassium tert-butylate (804 mg, 6.64 mmol). After the mixture was stirred for 30 min at room temperature, a solution of ethyl bromide (724 mg, 6.64 mmol) in 10 ml dry DMF was added. Following overnight stirring, the mixture was diluted with 150 ml 1 N HCl. Extraction with ethyl acetate (2×100 mL) followed by washing of the organic extracts with water and brine, drying over MgSO4 and removal of the solvent in vacuo gave a light yellow solid. Purification by flash chromatography (hexanes/ethyl acetate, 1/1, Rf=0.52) gave 6-bromo-1-ethyl-3,4-dihydro-1H-quinolin-2-one (583 mg, 2.29 mmol, 59%) as a colorless solid.

reactant | 6-bromo-3,4-dihydro-1H-quinolin-2-one | 3.32 mmol, 750 mg | BrC=1C=C2CCC(NC2=CC1)=O | C9H8BrNO
reactant | potassium tert-butylate | 6.64 mmol, 804 mg | CC(C)(C)[O-].[K+]
reactant | ethyl bromide | 6.64 mmol, 724 mg | C(C)Br | C2H5Br
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | HCl | 1 N, 150 ml | Cl | ClH
product | 6-bromo-1-ethyl-3,4-dihydro-1H-quinolin-2-one | 2.29 mmol, 583 mg, 59% | BrC=1C=C2CCC(N(C2=CC1)CC)=O | C11H12BrNO
